US08048887B2
2-(4-Fluorophenyl)-5-(3-(3-(4-fluorophenyl)pyrrolidine-1-carbonyl)phenyl)-N-methylbenzofuran-3-carboxamide
3-(4-Fluorophenyl)pyrrolidine hydrochloride (25 mg, 0.12 mmol) was added to a stirred suspension of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (20 mg, 0.051 mmol), HATU (25 mg, 0.066 mmol), and DIPEA (50 μL, 0.29 mmol) in DMF (0.5 mL). The reaction was stirred at r.t. overnight, then diluted with MeOH, filtered, and purified by prep HPLC. Concentration afforded the title compound (22 mg, 79% yield) as a pink solid. 1H NMR (˜1:1 ratio of amide rotamers, 500 MHz, DMSO-d6) δ ppm 8.44-8.54 (m, 1H) 7.98-8.06 (m, 2H) 7.66-7.91 (m, 5H) 7.52-7.61 (m, 2H) 7.36-7.44 (m, 3H) 7.33 (dd, J=8.55, 5.49 Hz, 1H) 7.18 (t, J=8.85 Hz, 1H) 7.12 (t, J=8.85 Hz, 1H) 4.01 (dd, J=11.14, 7.17 Hz, 0.5H) 3.72-3.82 (m, 1.5H) 3.56-3.69 (m, 1.5H) 3.36-3.55 (m, 1.5H) 2.87 (d, J=4.58 Hz, 1.5H) 2.84 (d, J=4.58 Hz, 1.5H) 2.27-2.34 (m, 0.5H) 2.24 (dd, J=6.56, 3.51 Hz, 0.5H) 2.04-2.12 (m, 0.5H) 2.00 (dd, J=19.84, 10.38 Hz, 0.5H). LC/MS was performed on a Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. LC/MS method: solvent A=10% CH3CN/90% H2O/0.1% TFA, solvent B=90% CH3CN/10% H2O/0.1% TFA, start % B=0, final % B=100, gradient time=3 min, stop time=4 min, flow rate=4 ml/min, column: Sunfire C18 5 μm 4.6×50 mm; HPLC Rt=1.89 min, (ES+) m/z (MH+)=537. Analytical HPLC method: solvent A=5% CH3CN/95% H2O/0.1% TFA, solvent B=95% CH3CN/5% H2O/0.1% TFA, start % B=10, final % B=100, gradient time=15 min, stop time=18 min, flow rate=1 ml/min. Column: Waters Sunfire C-18, 3.5 μm 4.6×150 mm, Rt=14.43 min, purity=99%; column: Waters XBridge phenyl 3.5 μm 4.6×150 mm, Rt=13.18 min, purity=99%.

reactant | 3-(4-Fluorophenyl)pyrrolidine hydrochloride | 0.12 mmol, 25 mg | Cl.FC1=CC=C(C=C1)C1CNCC1
reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.051 mmol, 20 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2 | C23H16FNO4
reactant | HATU | 0.066 mmol, 25 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.29 mmol, 50 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 2-(4-Fluorophenyl)-5-(3-(3-(4-fluorophenyl)pyrrolidine-1-carbonyl)phenyl)-N-methylbenzofuran-3-carboxamide | 22 mg, 79% yield | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC(=CC=C2)C(=O)N2CC(CC2)C2=CC=C(C=C2)F | C33H26F2N2O3
